US04814332
0.92 g of 1-(benzylideneamino)-2-methylimidazole is dissolved in 10 ml of absolute dichloromethane and then treated with 0.74 g of trimethyloxonium tetrafluoroborate. The mixture is stirred at room temperature overnight and the resulting precipitate is filtered under suction and washed twice with dichloromethane. After reprecipitation from acetonitrile/diethyl ether, there is obtained colorless 1-(benzylideneamino)-2,3-dimethylimidazolium tetrafluoroborate of m.p. 213°-216°.

reactant | 1-(benzylideneamino)-2-methylimidazole | 0.92 g | C(C1=CC=CC=C1)=NN1C(=NC=C1)C | C11H11N3
reactant | trimethyloxonium tetrafluoroborate | 0.74 g | F[B-](F)(F)F.C[O+](C)C
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(benzylideneamino)-2,3-dimethylimidazolium tetrafluoroborate | F[B-](F)(F)F.C(C1=CC=CC=C1)=N[N+]1=C(N(C=C1)C)C | InChI=1S/C12H14N3.BF4/c1-11-14(2)8-9-15(11)13-10-12-6-4-3-5-7-12;2-1(3,4)5/h3-10H,1-2H3;/q+1;-1
